US08609647B2
(8) Optically-Active Compound of 3-benzyloxycarbonylamino-3-(1,1-difluoro-2-methanesulfonyloxyethyl)pyrrolidine-1-carboxylic acid tert-butyl ester
To a solution of an optically-active compound of 3-benzyloxycarbonylamino-3-(1,1-difluoro-2-hydroxyethyl)pyrrolidine-1-carboxylic acid tert-butyl ester (471 mg) and triethylamine (328 μl) in chloroform (4.7 ml) cooled to 0° C. was added methanesulfonyl chloride (118 μl), and the mixture was stirred for 50 minutes. To the mixture was added 5% aqueous potassium bisulfate solution, and the mixture was extracted with ethyl acetate. The organic layer was sequentially washed with 1M aqueous sodium hydroxide solution and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate and concentrated under reduced pressure to give the titled compound (565 mg).

reactant | 3-benzyloxycarbonylamino-3-(1,1-difluoro-2-hydroxyethyl)pyrrolidine-1-carboxylic acid tert-butyl ester | 471 mg | C(C)(C)(C)OC(=O)N1CC(CC1)(C(CO)(F)F)NC(=O)OCC1=CC=CC=C1 | C19H26F2N2O5
reactant | triethylamine | 328 μl | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 118 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | potassium bisulfate | S([O-])(O)(=O)=O.[K+]
solvent | chloroform | 4.7 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-benzyloxycarbonylamino-3-(1,1-difluoro-2-methanesulfonyloxyethyl)pyrrolidine-1-carboxylic acid tert-butyl ester | 565 mg | C(C)(C)(C)OC(=O)N1CC(CC1)(C(COS(=O)(=O)C)(F)F)NC(=O)OCC1=CC=CC=C1 | C20H28F2N2O7S
